US04258120
A solution of 4-methoxy-phenyl-diazonium chloride was prepared by adding dropwise at 0° C. a solution of 1.8 g of sodium nitrite dissolved in 2.5 ml of water to a solution of 3.075 g of p-anisidine dissolved in 25 ml of water and 8.1 ml of concentrated hydrochloric acid. The reaction mixture was allowed to stand for 2 hours.

reactant | sodium nitrite | 1.8 g | N(=O)[O-].[Na+]
reactant | p-anisidine | 3.075 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | hydrochloric acid | 8.1 ml | Cl | ClH
solvent | water | 2.5 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 4-methoxy-phenyl-diazonium chloride | yield of 77% | [Cl-].COC1=CC=C(C=C1)[N+]#N | InChI=1S/C7H7N2O.ClH/c1-10-7-4-2-6(9-8)3-5-7;/h2-5H,1H3;1H/q+1;/p-1
